US07495007B2
Preparation of intermediate 2-(4-chloro-phenyl)-4,4-dimethyl-oxazolidine
To a solution of 2-amino-2-methyl-propan-1-ol (59 g, 0.66 mol) in dichloromethane (120 mL) at 0° C. was added dropwise a solution of 4-chloro-benzoyl chloride (53 g, 0.3 mol) in dichloromethane (75 mL). The resulting mixture was stirred at r.t. for 2.5 h, then filtered and the filtrate was concentrated. Then SOCl2 (120 g, 1 mol) was added dropwise. The mixture was stirred at room temperature for overnight, then diluted with ethyl ether (150 mL). The resulting mixture was cooled in an ice bath, neutralized with aqueous NaOH (20%). The organic layer was separated, and aqueous layer was extracted with ethyl ether for 3 times. The organic lays were combined and washed with water twice, dried over anhydrous Na2SO4 and concentrated. The residue was distilled in vacuo to give the title product (25 g) as oil.

reactant | 2-amino-2-methyl-propan-1-ol | 0.66 mol, 59 g | NC(CO)(C)C | C4H11NO
reactant | 4-chloro-benzoyl chloride | 0.3 mol, 53 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | SOCl2 | 1 mol, 120 g | O=S(Cl)Cl | Cl2OS
reactant | NaOH | [OH-].[Na+]
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | ethyl ether | 150 mL | C(C)OCC | C4H10O
product | 2-(4-chloro-phenyl)-4,4-dimethyl-oxazolidine | 25 g | ClC1=CC=C(C=C1)C1OCC(N1)(C)C | C11H14ClNO
